* NDMOS200V - on-resistance vs drift length, width fixed
.include "../autohv_bicmos180_case.lib"
.param case=0

Vg  g  0  5
Va  da 0  0.5
Vb  db 0  0.5
X_a da g 0 NDMOS200V W=100u L=8u     ; nominal drift
X_b db g 0 NDMOS200V W=100u L=16u    ; long drift -> higher Rdson

.control
  op
  print abs(va#branch) abs(vb#branch)   ; Id(8u) > Id(16u)
.endc
.end
